* D:\2017\PROJETOS PESSOAIS 2017\LighterBoard\Draft1.asc
XU1 No1 N001 N002 0 AmpOut LT1001
Vin No1 0 PULSE(0 5 1p 1p 1p 1m 2m)
Vcc N002 0 12v
R2 AmpOut N001 100k
R3 AmpOut 0 1k
R1 N001 0 50k
.op
.tran 0 10m 0 500u startup
.lib LTC.lib
.backanno
.end
