* D:\2017\PROJETOS PESSOAIS 2017\LighterBoard\LighterBoard.asc
V1 Micro1 0 PULSE(0 5 1p 1p 1p 1m 2m)
Rg1 vg1 GND_POWER1 10K
VPower1 N002 GND_POWER1 12
XU1 N003 vg1 GND_POWER1 IRF640ns
RLoad1 N002 N003 1
Ri1 GND_POWER1 0 99Meg
XOP1 N004 0 N001 vg1 PC817 Igain=1m
V2 Micro2 0 PULSE(0 5 1p 1p 1p 1m 2m)
Rg2 vg2 GND_POWER2 10K
VPower2 N006 GND_POWER2 12
XU2 N007 vg2 GND_POWER2 IRF640ns
RLoad2 N006 N007 1
R2 N008 Micro2 1k
Ri2 GND_POWER2 0 10Meg
V3 Micro3 0 PULSE(0 5 1p 1p 1p 1m 2m)
Rg3 vg3 GND_POWER3 10K
VPower3 N010 GND_POWER3 12
XU3 N011 vg3 GND_POWER3 IRF640ns
RLoad3 N010 N011 1
R3 N012 Micro3 1k
Ri3 GND_POWER3 0 10Meg
XOP3 N012 0 N009 vg3 PC817 Igain=2.3m
R1 N004 Micro1 1k
XOP2 N008 0 N005 vg2 PC817 Igain=1.5m
V4 Micro4 0 PULSE(0 5 1p 1p 1p 1m 2m)
VPower4 N014 GND_POWER4 12
XU4 N016 N014 GND_POWER4 IRF640ns
RLoad4 N014 N016 1
R4 N017 Micro4 220
Ri4 GND_POWER4 0 10Meg
XOP4 N017 0 N013 N018 PC817 Igain=2.3m
V§SignalFix4 N013 GND_POWER4 4
V§SignalFix3 N009 GND_POWER3 4
V§SignalFix2 N005 GND_POWER2 4
V§SignalFix1 N001 GND_POWER1 4
XU5 N019 GND_POWER4 N014 GND_POWER4 N015 LT1001
R5 N015 GND_POWER4 10k
R6 N019 N018 1k
.tran 1
.op
.TEMP 50
.lib C:\Users\luchi\OneDrive\Documentos\irf640ns.spi
.lib LTC.lib
.lib PC817.sub
.backanno
.end
