* D:\2017\PROJETOS PESSOAIS 2017\LighterBoard\LighterBoard2.asc
V1 Micro1 0 PULSE(0 5 1p 1p 1p 1m 2m)
XOP1 N003 0 N001 vg1 PC817 Igain=1m
R1 N003 Micro1 220
V§SignalFix1 N001 0 5
XU1 N002 N004 0 IRF640ns
Q1 N004 vg1 0 0 BC817-25
R2 12V N004 10k
R3 Ext N002 1
V2 12V 0 12
V3 Ext 0 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\luchi\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.op
.TEMP 200
.lib C:\Users\luchi\OneDrive\Documentos\irf640ns.spi
.lib PC817.sub
.backanno
.end
